US07576135B2
2-methyl-1,2,3,4-tetrahydro-6-isoquinolinecarboxylic acid methyl ester
To 3,4-dihydro(1H)isoquinoline-2,6-dicarboxylic acid 2-(tert-butyl) ester 6-methyl ester (WO00/09480) (344 mg) dissolved in methylene chloride (6 mL), under ice cooling, trifluoroacetic acid (3 mL) was added, followed by stirring for 30 minutes. The reaction mixture was concentrated, and diluted with chloroform. The resultant mixture was neutralized with saturated aqueous sodium hydrogencarbonate, followed by extracting with chloroform/methanol (4/1). The resultant organic layer was dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=20:1→1:1), to thereby give 1, 2, 3, 4-tetrahydroisoquinoline-6-carboxylic acid methyl ester (154 mg). This material was dissolved in methylene chloride (5 mL), and formalin (90.6 μL) was added thereto at room temperate, followed by stirring for 10 minutes. Under ice cooling, acetic acid (46 μL) and sodium triacetoxyborohydride (269 mg) were added thereto. The mixture was stirred at room temperature for 105 minutes, and neutralized with saturated aqueous sodium hydrogencarbonate. The resultant mixture was extracted with chloroform. The organic layer was dried over sodium sulfate anhydrate, and concentrated under reduced pressure, to thereby give the title compound (162 mg).

reactant | 3,4-dihydro(1H)isoquinoline-2,6-dicarboxylic acid 2-(tert-butyl) ester 6-methyl ester | 344 mg | COC(=O)C=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C16H21NO4
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-1,2,3,4-tetrahydro-6-isoquinolinecarboxylic acid methyl ester | 162 mg | COC(=O)C=1C=C2CCN(CC2=CC1)C | C12H15NO2
